US05843942
To a solution of 6-[N-(2-benzyloxy-5-bromobenzyl)-N-ethylamino]-2-allyloxypyridine-3-carboxylic acid (0.6 g) in toluene (9 ml) at 80° C. was added N,N-dimethylformamide di-t-butyl acetal (1.1 ml) in toluene (4 ml). The mixture was heated at 80° C. for 2 hours, mixed with ethyl acetate and washed with aqueous sodium hydrogen carbonate solution and brine. The organic solution was dried (Na2SO4), filtered and evaporated. The residue was purified by chromatography eluting with 1% ethyl acetate/dichloromethane to give tert-butyl 6-[N-(2-benzyloxy-5-bromobenzyl)-N-ethylamino]-2-allyloxypyridine-3-carboxylate as an oil.

reactant | 6-[N-(2-benzyloxy-5-bromobenzyl)-N-ethylamino]-2-allyloxypyridine-3-carboxylic acid | 0.6 g | C(C1=CC=CC=C1)OC1=C(CN(CC)C2=CC=C(C(=N2)OCC=C)C(=O)O)C=C(C=C1)Br | C25H25BrN2O4
reactant | N,N-dimethylformamide di-t-butyl acetal | 1.1 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 9 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 6-[N-(2-benzyloxy-5-bromobenzyl)-N-ethylamino]-2-allyloxypyridine-3-carboxylate | C(C1=CC=CC=C1)OC1=C(CN(CC)C2=CC=C(C(=N2)OCC=C)C(=O)OC(C)(C)C)C=C(C=C1)Br | C29H33BrN2O4
